US06727264B1
N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-5-METHYL-3-PHENYL-4-ISOXAZOLECARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 5-methyl-3-phenyl-4-isoxazolecarbonyl chloride: ESMS m/e: 489.1 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | 5-methyl-3-phenyl-4-isoxazolecarbonyl chloride | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)Cl | C11H8ClNO2
product | N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-5-METHYL-3-PHENYL-4-ISOXAZOLECARBOXAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C29H36N4O3
